US04787931
To a cold stirred mixture of 8.75 g (0.039 mole) of methyl 2,6-dichloronicotinate N-oxide in 50 ml of methanol was added dropwise 2.0 g (0.063 mole) of hydrazine in 14 ml of methanol. After complete addition the mixture was stirred for one hour then placed in a freezer for approximately 18 hours. The solvent was then removed by distillation under reduced pressure to leave a solid. The solid was stirred in isopropanol then filtered. The filter cake was added to 75 ml of refluxing ethanol and the resulting mixture filtered hot to yield 4.3 g of 2,6-dichloro-4-pyridinecarboxylic acid hydrazide 1-oxide as a solid.

reactant | methyl 2,6-dichloronicotinate N-oxide | 0.039 mole, 8.75 g | ClC1=C(C(=O)OC)C=CC(=[N+]1[O-])Cl | C7H5Cl2NO3
reactant | hydrazine | 0.063 mole, 2.0 g | NN | H4N2
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 14 ml | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,6-dichloro-4-pyridinecarboxylic acid hydrazide 1-oxide | 4.3 g | ClC1=[N+](C(=CC(=C1)C(=O)NN)Cl)[O-] | C6H5Cl2N3O2
